US04217286
A mixture of 10.7 (0.05 ml) of 5-(4-nitrophenyl)-2-furonitrile and 500 ml of anhydrous methanol was heated on a steam bath until a solution resulted. After slight cooling, a catalytic amount (0.1 g) of powdered sodium methoxide was added with stirring. The solution turned quite dark and in about 5 minutes, solid started to separate. The mixture was allowed to stir for an hour and then was filtered. The solid was washed with anhydrous methanol and air dried. The yield was 10.0 g (81%). Recrystallization from 200 ml of ethyl acetate gave 6.0 g of analytically pure methyl 5-(4-nitrophenyl)-2-furancarboximidate, m.p. 184°-188°.

reactant | 5-(4-nitrophenyl)-2-furonitrile | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C#N | C11H6N2O3
reactant | sodium methoxide | 0.1 g | C[O-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
product | methyl 5-(4-nitrophenyl)-2-furancarboximidate | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C(OC)=N | C12H10N2O4
